US08957093B2
4′-((5-(3-fluoro-4-methoxybenzylcarbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)biphenyl-2-carboxylic acid
The title compound was prepared following the same general protocol as described in Steps 8-9, Example 1, using 3-fluoro-4-methoxybenzylamine and 1-((2′-(tert-butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid. LC-MS 537 (M+H).

reactant | 3-fluoro-4-methoxybenzylamine | FC=1C=C(CN)C=CC1OC | C8H10FNO
reactant | 1-((2′-(tert-butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)O)C)C | C29H29NO4
product | 4′-((5-(3-fluoro-4-methoxybenzylcarbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)biphenyl-2-carboxylic acid | FC=1C=C(CNC(=O)C=2C=C3C(=C(N(C3=CC2)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)O)C)C)C=CC1OC | C33H29FN2O4
